datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[O:16][C:15]1=[CH:14][CH:13]=[C:12]([C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75]([O:86]C)[CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)[CH:63]=[CH:64]1.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>C[O+:16]=[C:15]1[CH:14]=[CH:13][C:12](=[C:11]([C:72]2=[CH:73][CH:74]=[C:75]([O:86]C)[CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)[CH:63]=[CH:64]1.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16"
"CC(C)(C)[N:61]1[C-:10]=[N+:71](C)[CH:63]=[CH:62]1.CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=S)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([C:10]2=[N+:71](C)[CH:63]=[CH:62][N:61]2C(C)(C)C)[C:21]2=[C:22]([O-:23])[N:51](C)C(=S)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23"
"C1C[C:11](=[CH2:10])C1.CN1C=C[N+](C2=C(F)C(F)=C(F)C(F)=C2F)=C1[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23]>>CN1C=C[N+](C2=C(F)C(F)=C(F)C(F)=C2F)=C1[C:22](=[CH:21][CH:20]([CH2:10][C+:11]1CCC1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1.C[Ge:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Pb:73](C)(C)C>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([H:10])[C-:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1.C[Ge:63](C)(C)[CH2:62][CH+:11][CH2:72][Pb:73](C)(C)C 10,11=10,20;20,21=21"
"CC(C)(C1=CC=CC=C1)[O:21][S:20]C(F)(F)F.CC[C:12]1=[C:13](C)[NH:14][CH:10]=[C:11]1C>>CC(C)(C1=CC=CC=C1)[O-:21].CC[C:12]1=[C:11](C)[CH:10]([S:20]C(F)(F)F)[NH+:14]=[C:13]1C 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"C1CC[N:12]([C:11]2=[CH:10]C[C:63]3=[C:62]2[CH:73]=[CH:74][CH:65]=[CH:64]3)C1.[O-][N+:22]([C:21]1=[CH:20]N2N=N[N:35]=[C:34]2[CH:33]=[CH:32]1)=[O:23]>>[O-][N+:22](=[C:21]1[CH:20]([CH:10]2C[C:63]3=[C:62]([C:11]2=[N+:12]2CCCC2)[CH:73]=[CH:74][CH:65]=[CH:64]3)N2N=N[N:35]=[C:34]2[CH:33]=[CH:32]1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:61][C:111]([C-:10]([C:72](=[O:73])[O:83]CC)[C:92](=[O:93])[O:103]CC)=[O:112].CN1C(=O)C(CC2=CNC3=CC=CC=C23)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CC[O:61][C:111]([C:10]([CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CNC3=CC=CC=C23)C(=O)N(C)C1(C)C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:72](=[O:73])[O:83]CC)[C:92](=[O:93])[O:103]CC)=[O:112] 10=20;20,21=21,22;22,23=23"
"C[C@H]1[C@@H](C)[O:62][C@@:11](C)([H:10])[O:12]1.C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>C[C@H]1[C@@H](C)[O:62][C:11](C)=[O+:12]1.C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"COC1=CC=C([CH:20]=[C:21]([C:22]#[N:23])[C:32]#[N:33])C=C1.C[Zr:11]12345678([CH3:10])(C9C1C2C3C94)C1C5C6C7C18>>COC1=CC=C([CH:20]([CH3:10])[C:21](=[C:22]=[N-:23])[C:32]#[N:33])C=C1.C[Zr+:11]12345678(C9C1C2C3C94)C1C5C6C7C18 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=C([N+](=O)[O-])C=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CC1(C)C(C)(C)[O:62][B-:11](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)([CH:10](C)C2=CC=CC=C2)[O:12]1>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([CH:10](C)C2=CC=CC=C2)/[CH:41]=[CH:42]/C2=CC=C([N+](=O)[O-])C=C2)=[CH:22]1.CC1(C)C(C)(C)[O:62][B-:11](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)=[O+:12]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][C:57](F)=[CH:58]2)=[CH:32]1.[H]/[C:10](=[C:11](/[O-:12])[O:61]CC)[C:72](=[O:73])[O:83]CC>>[H][C:10]([C:11](=[O:12])[O:61]CC)([CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][C:55](F)=[CH:56][C:57](F)=[CH:58]1)[C:72](=[O:73])[O:83]CC 10,11=10,20;12=11,12"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[C:21]2[C:22](=[O:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1.C[C:13]1=[CH:12][CH:11]=[CH:10][O:14]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]2[CH:11]=[CH:12][C:13](C)=[O+:14]2)[C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"C/[CH:10]=[CH:11]\[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1.CC[O:33][C:22]([C:21](C)=[CH2:20])=[O:23]>>CC[O:33][C:22](=[C:21](C)[CH2:20][CH:10](C)[CH+:11][C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1)[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
